* Z:\mnt\design.r\spice\examples\4085-1.asc
M§Q1 N001 N002 OUT OUT FDS4685
C1 OUT 0 4.7µ
R1 OUT N006 1K
D1 N006 N010 LXHL-BW02
R2 OUT N002 5.1K
M§Q2 N004 N005 OUT OUT FDS4685
C2 N004 0 2.5
R3 N012 N013 10K
V1 N001 0 PWL(0 0 7 0 +10u 5)
V2 N003 0 PWL(0 0 1m 0 +1u 5)
C3 N011 0 0.1µ
R4 N013 0 10K
R5 0 N008 66.5K
R6 N007 0 2K
R7 N003 N009 10K
Rload OUT 0 250
XU1 N003 OUT N007 N009 NC_01 N011 N001 N013 N012 N002 N010 N008 N005 N004 0 LTC4085-1 TerminationCycles=392
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10
* NTC
* USB Power
* Wall Adapter
.lib LTC4085-1.sub
.backanno
.end
